US09382221B2
1-Ethyl-phenothiazin-5-ium iodide
1-Ethyl-10H-phenothiazine (646 mg, 2.84 mmol) was dissolved in CHCl3 (10 mL) and cooled to 0° C. as a solution of Iodine (2.16 g, 8.51 mmol) dissolved in CHCl3 (50 mL) was added dropwise. The mixture was stirred at 0° C. for 2 h, then allowed to warm to RT overnight.

reactant | 1-Ethyl-10H-phenothiazine | 2.84 mmol, 646 mg | C(C)C1=CC=CC=2SC3=CC=CC=C3NC12 | C14H13NS
reactant | Iodine | 8.51 mmol, 2.16 g | II | I2
solvent | CHCl3 | 10 mL | C(Cl)(Cl)Cl | CHCl3
solvent | CHCl3 | 50 mL | C(Cl)(Cl)Cl | CHCl3
product | 1-Ethyl-phenothiazin-5-ium iodide | [I-].C(C)C1=CC=CC2=[S+]C3=CC=CC=C3N=C12 | InChI=1S/C14H12NS.HI/c1-2-10-6-5-9-13-14(10)15-11-7-3-4-8-12(11)16-13;/h3-9H,2H2,1H3;1H/q+1;/p-1
